US05656642
5.5 ml of a 5N aqueous sodium hydroxide solution was added to a solution of 1.2 g of ethyl 4-(1,2,4-triazol-4-yl)benzoate in 15 ml of ethanol. The mixture was stirred at 50°-60° C. for 1 hour. The reaction mixture was concentrated under reduced pressure. To the residue was added ice water. The mixture was made acidic with acetic acid. The resulting crystals were collected by filtration, water-washed, and dried to obtain 0.95 g of 4-(1,2,4-triazol-4-yl)benzoic acid as a white powder. Melting point: 300° C. or above

reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | ethyl 4-(1,2,4-triazol-4-yl)benzoate | 1.2 g | N=1N=CN(C1)C1=CC=C(C(=O)OCC)C=C1 | C11H11N3O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(1,2,4-triazol-4-yl)benzoic acid | 0.95 g | N=1N=CN(C1)C1=CC=C(C(=O)O)C=C1 | C9H7N3O2
